US06646165B2
A 4-necked, 1-liter flask equipped with a stirrer, a thermometer and a condenser tube was charged with 181.5 g (1.00 mole) of 1,3,5-trichlorobenzene and 67.9 g (0.10 mole) of an aqueous solution of 50 wt % tetra-n-butylphosphonium bromide. 233.6 g (1.00 mole) of an aqueous solution of 30 wt % sodium thiomethoxide was added dropwise at 80° C. over a period of 6 hours. After addition, the mixture was reacted at the same temperature for 10 hours. After completion of reaction, 191.9 g of a crude 1-methylthio-3,5-dichlorobenzene was obtained by separation procedure.

reactant | 1,3,5-trichlorobenzene | 1.00 mole, 181.5 g | ClC1=CC(=CC(=C1)Cl)Cl | C6H3Cl3
reactant | sodium thiomethoxide | C[S-].[Na+]
catalyst | tetra-n-butylphosphonium bromide | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
product | 1-methylthio-3,5-dichlorobenzene | 191.9 g | CSC1=CC(=CC(=C1)Cl)Cl | C7H6Cl2S
